US07863450B2
4.3 Synthesis of 4-(3-piperidin-1-ylpropoxy)benzoic acid ax22
To methyl 4-(3-piperidin-1-ylpropoxy)benzoate ax15 (4.41 g, 15.9 mmol, 1 eq) in ethanol (160 ml) is added a 5 N aqueous solution of sodium hydroxide (9.54 ml, 47.7 mmol, 3 eq) and the mixture is stirred at 60° C. for 4 h and at 28° C. overnight. The mixture is concentrated under vacuum to give a white solid, which is then dissolved in a 1:1 mixture of ethanol/water (100 ml). A solution of 5 N aqueous hydrochloric acid is then added until the pH of the mixture reaches 2-3. The ethanol is then evaporated under vacuum and the mixture filtered to give a white solid. This solid is washed with water and dried under vacuum at 40° C.

reactant | methyl 4-(3-piperidin-1-ylpropoxy)benzoate | N1(CCCCC1)CCCOC1=CC=C(C(=O)OC)C=C1 | C16H23NO3
reactant | sodium hydroxide | 47.7 mmol, 9.54 ml, 3 eq | [OH-].[Na+]
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | ethanol | 160 ml | C(C)O | C2H6O
solvent | ethanol water | 100 ml | C(C)O.O
product | 4-(3-piperidin-1-ylpropoxy)benzoic acid | N1(CCCCC1)CCCOC1=CC=C(C(=O)O)C=C1 | C15H21NO3
